US05635510
20.4 Synthesis of (+)-2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethanol
(+)-Ethyl-2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-acetate (670 mg, 1.351 mmol, 99% ee) was dissolved in methanol (15 mL) and treated with LiOH (4.2 mL, 1N, 3.1 eq.) at ambient temperature for 3.5 h. The organics were concentrated in vacuo. The residue was dissolved in dichloromethane and washed with 1N HCl (50 mL), 5% NaHCO3 (50 mL), dried over MgSO4, filtered, and concentrated in vacuo to obtain a residue. The residue was dried under high vacuum for 18 h to give the title compound:

reactant | (+)-Ethyl-2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-acetate | 1.351 mmol, 670 mg | C(C)OC(CC1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C1=CC(=C(C=C1)Cl)Cl)=O | C24H27Cl2NO6
reactant | LiOH | 1N, 4.2 mL, 3.1 eq. | [Li+].[OH-]
solvent | methanol | 15 mL | CO | CH4O
product | (+)-2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethanol | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCO | C22H25Cl2NO5
